US07875645B2
rac-2-(3-chloro-phenyl)-butyronitrile was prepared from rac-1-(1-bromo-propyl)-3-chloro-benzene and trimethylsilyl cyanide in analogy to Example 23 c): colourless oil.

reactant | rac-1-(1-bromo-propyl)-3-chloro-benzene | BrC(CC)C1=CC(=CC=C1)Cl | C9H10BrCl
reactant | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
product | rac-2-(3-chloro-phenyl)-butyronitrile | ClC=1C=C(C=CC1)C(C#N)CC | C10H10ClN
